US07858781B2
(1) 8-(2-Hydroxy-ethyl)-8-aza-bicyclo[3.2.1]octan-3-ol (25)
8-Aza-bicyclo[3.2.1]octan-3-ol hydrochloride (5.1 g, 31.45 mmol)) and sodium carbonate (13.3 g, 125.8 mmol) are suspended in 150 ml of ethanol at room temperature. 2-Bromo-ethanol (4.4 ml, 62.9 mmol) is added dropwise within 20 minutes and the reaction mixture is refluxed for 15 hours. After cooling to room temperature the reaction mixture is evaporated under reduced pressure. The mixture is stirred with 200 ml of DCM and filtered. The clear filtrate is dried over anhydrous sodium sulfate, filtered, evaporated under reduced pressure and dried at high vacuum.

reactant | 8-Aza-bicyclo[3.2.1]octan-3-ol hydrochloride | 31.45 mmol, 5.1 g | Cl.C12CC(CC(CC1)N2)O
reactant | sodium carbonate | 125.8 mmol, 13.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-Bromo-ethanol | 62.9 mmol, 4.4 ml | BrCCO | C2H5BrO
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 8-(2-Hydroxy-ethyl)-8-aza-bicyclo[3.2.1]octan-3-ol | OCCN1C2CC(CC1CC2)O | C9H17NO2
